US05281635
A solution of sodium tetrachloraurate (35 g) in distilled water (200 ml) was slowly added to a solution of ethyl 2-hydroxyethyl sulphide (20.5 g) in distilled water (200 ml). Solid addition of mercaptopropionylglycine (5.21 g) followed by vigorous stirring yielded gold mercaptopropionylglycine as a white solid (yield, based on gold, 85%).

reactant | sodium tetrachloraurate | 35 g | [Na+].Cl[Au-](Cl)(Cl)Cl
reactant | ethyl 2-hydroxyethyl sulphide | 20.5 g | OCCSCC | C4H10OS
reactant | mercaptopropionylglycine | 5.21 g | SCCC(=O)NCC(=O)O | C5H9NO3S
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | gold mercaptopropionylglycine | SCCC(=O)NCC(=O)O.[Au] | InChI=1S/C5H9NO3S.Au/c7-4(1-2-10)6-3-5(8)9;/h10H,1-3H2,(H,6,7)(H,8,9);
